US06117860
Synthesis of Androsta-3,5,16-trien-3-yl methyl ether.
To a partial solution of androsta-4,16-dien-3-one (1.00 g, 3.70 mmol) in 2.2 dimethoxypropane (5.0 ml, 41 mmol) and 5 ml DMF were added methanol (0.2 ml) and p-toluenesulfonic acid monohydrate (26.4 mg, 0.139 mmol). The mixture was refluxed 5 h, after which it was cooled and sodium bicarbonate (152.5 mg) was added. The suspension was partitioned between 50 ml of ice water and 50 ml of ethyl acetate. The organic layer was washed with two 50 ml portions of water+50 ml of brine, dried over 20 magnesium sulfate, filtered, and concentrated under reduced pressure. The residual oil was taken up in 50 ml of hot hexane and filtered through a 12 mm×30 mm column of silica gel 60 using 150 ml of hot hexane. The combined filtrates were concentrated under reduced pressure and recrystallized from acetone/methanol to give white crystals (468.0 mg, 1.645 mmol, 446), m.p. 83-92° C.

reactant | androsta-4,16-dien-3-one | 3.70 mmol, 1.00 g | C[C@@]12C=CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C19H26O
reactant | dimethoxypropane | 41 mmol, 5.0 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 0.139 mmol, 26.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 152.5 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 0.2 ml | CO | CH4O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Androsta-3,5,16-trien-3-yl methyl ether | COC1=CC2=CC[C@H]3[C@@H]4CC=C[C@@]4(C)CC[C@@H]3[C@]2(CC1)C | C20H28O
